US05700801
c) Methyl 4-(4-piperidinyl)-butyrate hydrochloride
18 ml (0.242 Mol) of thionyl chloride are slowly added dropwise to 800 ml of methanol with stirring at -10° C. then, at the same temperature, a solution of 44.3 g(0.201 Mol) of 4-(4-piperidinyl)-butyric acid hydrochloride in 100 ml of methanol is added dropwise, the resulting mixture is stirred overnight at ambient temperature and then evaporated to dryness in vacuo. The residue is partitioned between 50% potassium carbonate solution and ether. The aqueous phase is extracted twice more with ether. The combined ether extracts are dried and evaporated down. The residue is dissolved in methanol, acidified to pH 6 with ethereal hydrochloric acid and evaporated to dryness in vacuo. The residue remaining is triturated with acetone. The crystals precipitated are suction filtered.

reactant | thionyl chloride | 0.242 Mol, 18 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 4-(4-piperidinyl)-butyric acid hydrochloride | 0.201 Mol, 44.3 g | Cl.N1CCC(CC1)CCCC(=O)O
reactant | methanol | 100 ml | CO | CH4O
reactant | methanol | 800 ml | CO | CH4O
product | Methyl 4-(4-piperidinyl)-butyrate hydrochloride | Cl.N1CCC(CC1)CCCC(=O)OC | InChI=1S/C10H19NO2.ClH/c1-13-10(12)4-2-3-9-5-7-11-8-6-9;/h9,11H,2-8H2,1H3;1H
